US05677454
A solution of 50 mg of 3-hydroxymethylbiphenyl in 1.5 mL thionyl chloride was heated at reflux temperature for 4 hr, cooled to room temperature and the solvent removed by evaporation under reduced pressure to yield 45 mg of 3-chloromethylbiphenyl which was used in the next step without further purification or characterization.

reactant | 3-hydroxymethylbiphenyl | 50 mg | OCC=1C=C(C=CC1)C1=CC=CC=C1 | C13H12O
reactant | thionyl chloride | 1.5 mL | S(=O)(Cl)Cl | Cl2OS
product | 3-chloromethylbiphenyl | 45 mg | ClCC=1C=C(C=CC1)C1=CC=CC=C1 | C13H11Cl
